US07683067B2
2-Hydroxy-3-[5-(piperidin-1-ylmethyl)pyridin-2-yl]-1H-indole-6-carbonitrile hydrochloride
The title compound was prepared as described for Example 117. Starting material: 1-[(6-chloro-1-oxidopyridin-3-yl)methyl]piperidine (0.136 g, 0.60 mmol) and 2-oxoindoline-6-carbonitrile (0.100 g, 0.63 mmol) and sodium bis(trimethylsilyl)amide (1.4 mL, 1.4 mmol). Yield: 0.031 g, 12%: 1H NMR D2O, 400 MHz) δ 8.01 (d, J=2 Hz, 1H), 7.75 (dd, J=9, 2 Hz, 1H), 7.28 (d, J=9 Hz, 1H), 7.06 (m, 2H), 6.92 (s, 1H), 4.19 (s, 2H), 3.53 (m, 2H), 2.98 (m, 2H), 1.94 (s, 2H), 1.82 (m, 1H), 1.70 (m, 2H), 1.46 (m, 1H); MS (ESP) m/z 349 (M++1).

reactant | 1-[(6-chloro-1-oxidopyridin-3-yl)methyl]piperidine | 0.60 mmol, 0.136 g | ClC1=CC=C(C=[N+]1[O-])CN1CCCCC1 | C11H15ClN2O
reactant | 2-oxoindoline-6-carbonitrile | 0.63 mmol, 0.100 g | O=C1NC2=CC(=CC=C2C1)C#N | C9H6N2O
reactant | sodium bis(trimethylsilyl)amide | 1.4 mmol, 1.4 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
product | 2-Hydroxy-3-[5-(piperidin-1-ylmethyl)pyridin-2-yl]-1H-indole-6-carbonitrile hydrochloride | Cl.OC=1NC2=CC(=CC=C2C1C1=NC=C(C=C1)CN1CCCCC1)C#N | InChI=1S/C20H20N4O.ClH/c21-11-14-4-6-16-18(10-14)23-20(25)19(16)17-7-5-15(12-22-17)13-24-8-2-1-3-9-24;/h4-7,10,12,23,25H,1-3,8-9,13H2;1H
